US07893059B2
5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine was reacted with 2-(piperazin-1-yl)ethanol, via General Procedure C, to give crude 2-(4-(5-chloro-7-morpholinothiazolo[4,5-d]pyrimidin-2-yl)piperazin-1-yl)ethanol, which was then reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure C again to give 134 after purification by reverse HPLC. MS (Q1) 444 (M+)

reactant | 5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)S(=O)(=O)C)N2CCOCC2 | C10H11ClN4O3S2
reactant | 2-(piperazin-1-yl)ethanol | N1(CCNCC1)CCO | C6H14N2O
product | 2-(4-(5-chloro-7-morpholinothiazolo[4,5-d]pyrimidin-2-yl)piperazin-1-yl)ethanol | ClC=1N=C(C2=C(N1)N=C(S2)N2CCN(CC2)CCO)N2CCOCC2 | C15H21ClN6O2S
